US08378108B2
Steps 1 and 2: To a stirred solution of 5-bromo-1-cyclopropyl-1H-imidazole (780 mg, 1.90 mmol), in tetrahydrofuran (3 mL) at −78° C. was added n-butyllithium (911 μL 2.5 M solution, 2.28 mmol) and the reaction mixture was stirred for 30 minutes at −78° C. A solution of zinc bromide (ZnBr2, (641 mg, 2.85 mmol, dried under vacuum at 100° C. for 3 hours) in tetrahydrofuran (3 mL) was added, the mixture warmed to room temperature and stirred an additional 2.5 hours. A solution of 6-(di-Boc-amino)-2-bromopyridine and Pd(PPh3)4 in 3 mL tetrahydrofuran was added to the reaction via cannula and the mixture was stirred overnight. The reaction was concentrated under reduced pressure and the residue was purified by flash chromatography (5% methanol in methylene chloride, gradient flash: 4%→10% methanol in methylene chloride). The product was isolated as mixture of the mono- and bis-Boc protected 6-(1-cyclopropyl-1H-imidazol-5-yl)pyridin-2-amine. This mixture was used directly in the next step Step 3: The material from the above sequence was dissolved in dichloroethane (2 mL), trifluoroacetic acid was added, and the mixture was heated to 50° C. and stirred for 1 hour. The material was purified by reverse phase HPLC to afford 150 mg (40% yield) of 6-(3-cyclopropyl-3H-imidazol-4-yl)-pyridin-2-ylamine as a white solid. M+1=201.2 Step 4: A solution of 4-chloro-pyridine-2-carboxylic acid (141 mg, 0.895 mmol), 6-(3-cyclopropyl-3H-imidazol-4-yl)-pyridin-2-ylamine (150 mg, 0.750 mmol), (2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU) (342 g, 0.899 mmol), and N-methylmorpholine (250 μL, 2.70 mmol) in N,N-dimethylformamide was stirred at room temperature for 12 hours. The solvent was removed under reduced pressure, the residue suspended in acetonitrile, and the solid isolated by filtration, washed with water (80 mL), acetonitrile (80 mL) and diethyl ether (80 mL), and dried under reduced pressure to afford 4-chloro-N-(6-(1-cyclopropyl-1H-imidazol-5-yl)pyridin-2-yl)picolinamide as a white powder (120 mg, 47% yield). M+1=340.1 Step 5: A suspension of 4-chloro-N-(6-(1-cyclopropyl-1H-imidazol-5-yl)pyridin-2-yl)picolinamide (38.9 mg, 0.115 mmol), boronic acid (29 mg, 0.138 mmol), dppf(Pd)Cl2 (4.2 mg, 0.00575), potassium carbonate (47.7 mg, 0.345 mmol) in degassed toluene (1 mL), degassed water (0.5 mL) and degassed isopropanol (0.5 mL) was heated at 95° C. for 2 hours. The aqueous phase was discarded and the solvent removed from the organic portion under reduced pressure. Purification by reverse phase HPLC provided N-(6-(1-cyclopropyl-1H-imidazol-5-yl)pyridin-2-yl)-4-(quinolin-3-yl)picolinamide (10.1 mg, 20%) as a white solid.

reactant | 4-chloro-pyridine-2-carboxylic acid | 0.895 mmol, 141 mg | ClC1=CC(=NC=C1)C(=O)O | C6H4ClNO2
reactant | 6-(3-cyclopropyl-3H-imidazol-4-yl)-pyridin-2-ylamine | 0.750 mmol, 150 mg | C1(CC1)N1C=NC=C1C1=CC=CC(=N1)N | C11H12N4
reactant | 2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.899 mmol, 342 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-methylmorpholine | 2.70 mmol, 250 μL | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-chloro-N-(6-(1-cyclopropyl-1H-imidazol-5-yl)pyridin-2-yl)picolinamide | 120 mg, 47% yield | ClC1=CC(=NC=C1)C(=O)NC1=NC(=CC=C1)C1=CN=CN1C1CC1 | C17H14ClN5O
